US06984735B2
4-[2-(1-Benzhydryl-2-{2-[(benzylsulfonyl)amino]ethyl}-5-chloro-1H-indol-3-yl)ethoxy]benzoic acid
To methyl 4-{2-[2-(2-aminoethyl)-1-benzhydryl-5-chloro-1H-indol-3-yl]ethoxy}benzoate (1.0 equiv) and sat. NaHCO3 (0.14 M) in CH2Cl2 (0.07 M) was added α-toluenesulfonyl chloride (1.0 equiv). After 1 h the mixture was poured into saturated sodium bicarbonate and extracted with CH2Cl2. The combined organic phase was washed with brine, dried over sodium sulfate and purified by column chromatography (gradient elution using 20% EtOAc-hexanes→50% EtOAc-hexanes) to afford 86% of the desired product.

reactant | methyl 4-{2-[2-(2-aminoethyl)-1-benzhydryl-5-chloro-1H-indol-3-yl]ethoxy}benzoate | 1.0 equiv | NCCC=1N(C2=CC=C(C=C2C1CCOC1=CC=C(C(=O)OC)C=C1)Cl)C(C1=CC=CC=C1)C1=CC=CC=C1 | C33H31ClN2O3
reactant | NaHCO3 | 0.14 M | C(=O)(O)[O-].[Na+]
reactant | α-toluenesulfonyl chloride | 1.0 equiv | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 0.07 M | C(Cl)Cl | CH2Cl2
product | 4-[2-(1-Benzhydryl-2-{2-[(benzylsulfonyl)amino]ethyl}-5-chloro-1H-indol-3-yl)ethoxy]benzoic acid | 86% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)Cl)CCOC1=CC=C(C(=O)O)C=C1)CCNS(=O)(=O)CC1=CC=CC=C1 | C39H35ClN2O5S
